US08242125B2
5-[6-(Methanesulfonylamino-methyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
To a solution of 5-(6-aminomethyl-pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide (100 mg, 0.23 mmol) and THF (5 mL) is added methanesulfonic anhydride (87 mg, 0.5 mmol) and pyridine (0.2 mL). After 0.5 h the solution is partitioned between EtOAc and water. The organic layer is washed further with brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue is separated by FCC (EtOAc/heptane from 10 to 100%) to give the title compound.

reactant | 5-(6-aminomethyl-pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.23 mmol, 100 mg | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CN)(F)F | C21H16F3N5O2
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | methanesulfonic anhydride | 0.5 mmol, 87 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
product | 5-[6-(Methanesulfonylamino-methyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CNS(=O)(=O)C)(F)F | C22H18F3N5O4S
